US08633190B2
Step 2: 4-(7-Amino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
4-(7-Benzyloxycarbonylamino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.75 g, 1.54 mmol) in methanol (50.0 mL) was shaken under hydrogenated at 50 psi and rt for 2.5 hrs. The catalyst was filtered off, and the filtrate was concentrated to afford 0.42 g (77%) of the title compound. LC-MS (method C): RT: 0.94 min; ESI-MS m/z: 352 (M+H)+. It was used in the next step without further purification.

reactant | 4-(7-Benzyloxycarbonylamino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.54 mmol, 0.75 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)NC(=O)OCC2=CC=CC=C2)=O | C27H39N3O5
solvent | methanol | 50.0 mL | CO | CH4O
product | 4-(7-Amino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.42 g, 77% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)N)=O | C19H33N3O3
